US03933797
(1-Methylguanidino)Acetyl Chloride Hydrochloride
Creatine hydrochloride (1.85 g., 0.01 mole) in methylene chloride (50 ml.) was treated with phosphorous pentachloride (2.06 g., 0.01 mole) at room temperature. The mixture was stirred overnight at room temperature and the acid chloride product filtered off, washed with methylene chloride and dried.

reactant | Creatine hydrochloride | 0.01 mole, 1.85 g | Cl.O=C(O)CN(C)C(N)=N
reactant | phosphorous pentachloride | 0.01 mole, 2.06 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | (1-Methylguanidino)Acetyl Chloride Hydrochloride | Cl.CN(C(=N)N)CC(=O)Cl | InChI=1S/C4H8ClN3O.ClH/c1-8(4(6)7)2-3(5)9;/h2H2,1H3,(H3,6,7);1H
